US07235574B2
iii) 4-(4-[1,2,3]Triazol-1-yl-but-1-ynyl)-phenol
A mixture of 1.00 g (3.05 mmol) 1-{4-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-but-3-ynyl}-1H-[1,2,3]triazole and 3.05 ml 1M tetrabutylammonium fluoride solution in THF was stirred for 3 h. After evaporation the residue was dissolved in dichloromethane and washed with water that was acidified by acetic acid. The organic phase was dried, evaporated and purified by chromatography on silica gel (ethyl acetate) to give 612 mg (94%) of the title compound.

reactant | 1-{4-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-but-3-ynyl}-1H-[1,2,3]triazole | 3.05 mmol, 1.00 g | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C#CCCN1N=NC=C1)(C)C | C18H25N3OSi
reactant | tetrabutylammonium fluoride | 1M, 3.05 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-[1,2,3]Triazol-1-yl-but-1-ynyl)-phenol | 612 mg, 94% | N1(N=NC=C1)CCC#CC1=CC=C(C=C1)O | C12H11N3O
